US08378095B2
To a solution of 2-(2,6-difluorophenyl)-5-(phenylamino)oxazole-4-carboxylic acid (0.030 g, 0.095 mmol) in DCM (3 mL) was added hydroxybenzotriazole monohydrate (0.015 g, 0.098 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (0.020 g, 0.10 mmol) and 0.5M ammonia in dioxane (0.9 mL, 0.45 mmol). The reaction mixture was stirred at room temperature overnight. Further 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide (0.007 g, 0.038 mmol) and ammonia in dioxane (0.57 mL, 0.29 mmol) were added and the reaction stirred for 3 hours at room temperature. The solvent was evaporated in vacuo and the residue purified by preparative HPLC to afford 2-(2,6-difluorophenyl)-5-(phenylamino)oxazole-4-carboxamide (0.006 g, 0.019 mmol, 20%) as a white solid. 1H NMR (DMSO) δ 7.03 (1H, dd), 7.35 (4H, m), 7.38 (2H, br. s), 7.43 (2H, m), 7.64 (1H, m), 9.34 (1H, br. s). LCMS (2) Rt 2.87 min; m/z (ES+) 338 (M+Na), 299 (M-NH2).

reactant | 2-(2,6-difluorophenyl)-5-(phenylamino)oxazole-4-carboxylic acid | 0.095 mmol, 0.030 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)O)NC1=CC=CC=C1 | C16H10F2N2O3
reactant | hydroxybenzotriazole monohydrate | 0.098 mmol, 0.015 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.10 mmol, 0.020 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 0.45 mmol, 0.9 mL | O1CCOCC1 | C4H8O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide | 0.038 mmol, 0.007 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | dioxane | 0.29 mmol, 0.57 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,6-difluorophenyl)-5-(phenylamino)oxazole-4-carboxamide | 0.019 mmol, 0.006 g, 20% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)NC1=CC=CC=C1 | C16H11F2N3O2
